US04735959
4-[(1-(2-Piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzyl alcohol
A solution of 5.0 gm (11.83 m mol) of ethyl 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzoate in 75 ml of absolute tetrahydrofuran was added dropwise, at an internal temperature of 0° C., to a stirred suspension of 0.68 gm (17.95 m mol) of lithium aluminium hydride in 25 ml of absolute tetrahydrofuran. The mixture was stirred for 20 hours at ambient temperature and then cooled to 0° C., and 4N sodium hydroxide solution was slowly added dropwise thereto until a filterable precipitate formed. The mixture was filtered, and the precipitate was decocted several times with ether. The combined organic solutions were concentrated by evaporation in vacuo. The evaporation residue was distributed between water and ether. The ether phase was dried, filtered, and concentrated by evaporation in vacuo. The evaporation residue was purified by column chromatography on silica gel [toluene/acetone (5:1)].

reactant | ethyl 4-[(1-(2-piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzoate | 5.0 gm | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(C(=O)OCC)C=C1)C(=O)N | C26H34N2O3
reactant | lithium aluminium hydride | 0.68 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 4N | [OH-].[Na+]
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-[(1-(2-Piperidino-phenyl)-1-butyl)-aminocarbonylmethyl]-benzyl alcohol | N1(CCCCC1)C1=C(C=CC=C1)C(CCC)C(C1=CC=C(CO)C=C1)C(=O)N | C24H32N2O2
